US04177332
2.0 g of dimethyl cyclohexylamine;
115 g of a commercial polyisocyanate mixture of the diphenylmethane series, viscosity 200 mPa.s/20° C., prepared by a phosgenation of aniline/CH2O condensates.

reactant | diphenylmethane | C1(=CC=CC=C1)CC1=CC=CC=C1 | C13H12
reactant | aniline CH2O | NC1=CC=CC=C1.C=O
product | dimethyl cyclohexylamine | CN(C1CCCCC1)C | C8H17N
